US09356243B2
1st Step: 11 (2-iodobenzenesulfonyl)-11,12-dihydro-11,12-diazaindeno[2,1-a]fluorene
43 g (169 mmol) of 11,12-dihydroindolo[2,3-a]carbazole are initially introduced in 1000 ml of THF, and 8.9 g (223.3 mmol) of NaH (60% in oil) are added at 0° C. 24 g (80 mmol) of 2-iodobenzenesulfonyl chloride are subsequently added to the mixture, which is then stirred at 40° C. for 12 h. The organic phase is dried over MgSO4, and the solvent is removed in vacuo. The residue is recrystallised from acetone and finally sublimed in a high vacuum. Yield: 29 g (574 mmol), 72% of theory, purity according to HPLC 99.9%.

reactant | 11,12-dihydroindolo[2,3-a]carbazole | 169 mmol, 43 g | C1=CC=CC2=C1NC=1C2=CC=C2C3=CC=CC=C3NC12 | C18H12N2
reactant | NaH | 223.3 mmol, 8.9 g | [H-].[Na+]
reactant | 2-iodobenzenesulfonyl chloride | 80 mmol, 24 g | IC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClIO2S
solvent | THF | 1000 ml | C1CCOC1 | C4H8O
product | (2-iodobenzenesulfonyl)-11,12-dihydro-11,12-diazaindeno[2,1-a]fluorene | IC1=C(C=CC=C1)S(=O)(=O)C1=C2NC=3C(=CC=C4C5=CC=CC=C5NC34)C2=CC=C1 | C24H15IN2O2S
